US04539149
(ii) DL-2-(4-Nitrobenzyloxycarbonylamino)-2-(3,4-diacetoxyphenyl)acetic acid
DL-2-(4-Nitrobenzyloxycarbonylamino)-2-(3,4-dihydroxyphenyl)acetic acid (1.81 g, 5 mmole) was dissolved in dry tetrahydrofuran (19 ml). The solution was cooled to 0° C. and stirred while dry pyridine (1.30 ml, 3 equivalents) and acetic anhydride (1.18 ml, 2.5 equivalents) were added. The solution was allowed to regain room temperature and stirred for 3 h, further acetic anhydride (0.5 ml) being added after 1 h. The tetrahydrofuran was then removed by evaporation, the residue was partitioned between ethyl acetate and water and the pH raised to 7.5. The aqueous phase was separated and again washed with ethyl acetate, the organic phases being discarded, then acidified to pH2 with 2M hydrochloric acid and extracted with ethyl acetate (2X). The total organic extract was washed with water and brine, then dried over sodium sulphate and evaporated to give crude product. Reprecipitation was effected by adding dropwise a solution of the crude material in dichloromethane to an excess of petrol, with vigorous stirring, to give the title acid as an amorphous powder which was filtered, washed with petrol and dried; it retained solvents tenaciously (1.46 g, 65%); δ(CDCl3) 8.24 and 8.26 (6H,2s,2×CH3CO), 5.15(2H,s,ArCH2O), 5.22 (1H,d,J 7 Hz, NCHCO) 7.0-7.6 (7H,m,5H on D2O exch, aryl-H+NH+OH), 8.13(2H,d,J 9 Hz, aryl-H); RF 0.50 in chloroform:methanol:acetic acid, 17:2:1;

reactant | 2-(4-Nitrobenzyloxycarbonylamino)-2-(3,4-dihydroxyphenyl)acetic acid | 5 mmole, 1.81 g | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)O)C2=CC(=C(C=C2)O)O)C=C1 | C16H14N2O8
reactant | pyridine | 1.30 ml, 3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.18 ml, 2.5 equivalents | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | 2-(4-Nitrobenzyloxycarbonylamino)-2-(3,4-diacetoxyphenyl)acetic acid | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)O)C2=CC(=C(C=C2)OC(C)=O)OC(C)=O)C=C1 | C20H18N2O10
